US05631401
4-Phenylaminobenzoic acid N-propylamide
To a stirred solution of 1.06 g (5.0 mmol, 1 eq.) of 4-phenylaminobenzoic acid, prepared by the method of Portnaya, et al., Zhur. Obshchei. Khim., 30: 2693 (1960), n-propylamine (0.82 mL, 10.0 mmol, 2 eq.) and 0.061 g (0.5 mmol, 0.1 eq.) of DMAP in THF at 0° C. was added 1.05 g (5.5 mmol, 1.1 eq.) of EDCl. The mixture was stirred overnight while the bath melted. The mixture was poured into 150 mL of ethyl acetate and extracted with 50 mL each of water, 1N aqueous HCl, water, and saturated aqueous NaHCO3 solution. The ethyl acetate layer was then dried over Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography on SiO2 eluting with 1:1 ethyl acetate-hexanes to give 0.51 g (40%) of the title compound. 1H NMR (300 MHz, CDCl3) δ 10.57 (bs, 2H), 7.21-7.41 (m, 9H), 3.96 (s, 2H), 2.75 (m, 2H), 1.64 (hextet, 2H), 0.92 (t, 3H). MS (DCl) m/e 255 (M+H)+.

reactant | 4-phenylaminobenzoic acid | 5.0 mmol, 1.06 g, 1 eq. | C1(=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C13H11NO2
reactant | n-propylamine | 10.0 mmol, 0.82 mL, 2 eq. | C(CC)N | C3H9N
reactant | EDCl | 5.5 mmol, 1.05 g, 1.1 eq. | CCN=C=NCCCN(C)C.Cl
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | 0.5 mmol, 0.061 g, 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Phenylaminobenzoic acid N-propylamide | 0.51 g, 40% | C(CC)NC(C1=CC=C(C=C1)NC1=CC=CC=C1)=O | C16H18N2O
